US05145954
Methyl 2-methylbenzoate was treated successively with N-bromosuccinimide in chloroform and triphenylphosphine in toluene to give (o-methoxycarbonylbenzyl)triphenylphosphonium bromide as a white solid, mp. 230°-234° C., 1H NMR (D6 -DMSO) delta 3.36 (3H,s); 5.47 (2H, br d J 17 Hz) ppm.

reactant | Methyl 2-methylbenzoate | CC1=C(C(=O)OC)C=CC=C1 | C9H10O2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (o-methoxycarbonylbenzyl)triphenylphosphonium bromide | [Br-].COC(=O)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | InChI=1S/C27H24O2P.BrH/c1-29-27(28)26-20-12-11-13-22(26)21-30(23-14-5-2-6-15-23,24-16-7-3-8-17-24)25-18-9-4-10-19-25;/h2-20H,21H2,1H3;1H/q+1;/p-1
